US06008239
To a solution of 1-{2-(2,4-difluorophenyl)-3,3-difluoro-2-methoxy-3-[(2-methoxyethyl)thio]propyl}-1H-1,2,4-triazole (800 mg, 2.12 mmol) in dichloromethane (10 ml), 85% m-chloroperbenzoic acid (1.25 g, 5.09 mmol) was added at room temperature, followed by stirring at room temperature for 3 hours. After the completion of the reaction, a saturated aqueous solution of sodium thiosulfate and a saturated aqueous solution of sodium bicarbonate were added to the reaction mixture and the resulting mixture was stirred. The dichloromethane solution was separated, washed with water, dried over magnesium sulfate and distilled off under reduced pressure. The residue so obtained was subjected to a silica gel column. From the chloroform elute fraction, 700 mg (yield: 81%) of 1-{2-(2,4-difluorophenyl)-3,3-difluoro-2-methoxy-3-[(2-methoxyethyl)sulfonyl]propyl}-1H-1,2,4-triazole were obtained as a yellow oil.

reactant | 1-{2-(2,4-difluorophenyl)-3,3-difluoro-2-methoxy-3-[(2-methoxyethyl)thio]propyl}-1H-1,2,4-triazole | 2.12 mmol, 800 mg | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(SCCOC)(F)F)OC | C15H17F4N3O2S
reactant | m-chloroperbenzoic acid | 5.09 mmol, 1.25 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-{2-(2,4-difluorophenyl)-3,3-difluoro-2-methoxy-3-[(2-methoxyethyl)sulfonyl]propyl}-1H-1,2,4-triazole | 700 mg, yield: 81% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(S(=O)(=O)CCOC)(F)F)OC | C15H17F4N3O4S
